US05336778
Step F: 3-n-Butyl-5-(carbomethoxymethylthio)-4-[4-(2-carboxybenzamido)benzyl]-4H-1,2,4-triazole
A solution of 566 mg (1.69 mmole) of 4-(4-aminobenzyl)-3-n-butyl-5-(carbomethoxymethylthio)-4H-1,2,4-triazole in 15 ml of dry tetrahydrofuran (THF) was treated with 250 mg (1.69 mmole) of phthalic anhydride dissolved in 2 ml of dry THF. The resulting solution was stirred overnight at room temperature in a stoppered flask. The solid which had precipitated was collected on a filter and washed with ether to yield (after vacuum-drying at 30° C.) 629 mg (77%) of a white solid, mp 161°-162° C., homogeneous by TLC in 90:10:1CH2Cl2 --MeOH-AcOH; mass spectrum (FAB) m/e 483 (M+1)+.

reactant | 4-(4-aminobenzyl)-3-n-butyl-5-(carbomethoxymethylthio)-4H-1,2,4-triazole | 1.69 mmole, 566 mg | NC1=CC=C(CN2C(=NN=C2SCC(=O)OC)CCCC)C=C1 | C16H22N4O2S
reactant | phthalic anhydride | 1.69 mmole, 250 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | THF | 2 ml | O1CCCC1 | C4H8O
product | 3-n-Butyl-5-(carbomethoxymethylthio)-4-[4-(2-carboxybenzamido)benzyl]-4H-1,2,4-triazole | C(CCC)C1=NN=C(N1CC1=CC=C(C=C1)NC(C1=C(C=CC=C1)C(=O)O)=O)SCC(=O)OC | C24H26N4O5S
